US04933355
2-Isopropylaminothiazole-4-carbaldehyde
The reaction described in Preparation 44 was repeated, but using 4.4 q of 2-isopropylaminothiazol-4-ylmethanol, 12.2 g of pyridine sulfur trioxide complex, 7.7 g of triethylamine and 60 ml of dimethyl sulfoxide, giving the title compound as a pale brown oil.

reactant | 2-isopropylaminothiazol-4-ylmethanol | C(C)(C)NC=1SC=C(N1)CO | C7H12N2OS
reactant | triethylamine | 7.7 g | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 2-Isopropylaminothiazole-4-carbaldehyde | C(C)(C)NC=1SC=C(N1)C=O | C7H10N2OS
